US08168794B2
A solution of 4-chloro-3-nitropyridine (1.3 equiv.) and (3aR,7S,7aR)-7-methylhexahydrooxazolo[4,5-c]pyridin-2(3H)-one (1.5 equiv.) in CH2Cl2, at a concentration of 0.1 M, was stirred at rt for 48 hours at which piperidine (0.4 equiv) was added to consume excess 4-chloro-3-nitropyridine. After stirring for an additional 2 hours, di-tert-butyl dicarbonate (2.0 equiv.) and dimethylaminopyridine (0.1 equiv.) were added. After stirring for 4 hours, the solution was partitioned between EtOAc and NaHCO3 (sat.), was washed further with NaHCO3 (sat.), and NaCl(sat.), was dried over MgSO4, was filtered and purified by silica gel chromatography (75% EtOAc/hexanes eluant) yielding (3aR,7S,7aR)-tert-butyl 7-methyl-5-(3-nitropyridin-4-yl)-2-oxohexahydrooxazolo[4,5-c]pyridine-3(2H)-carboxylate (35%). LCMS (m/z): 379.0 (MH+). LC Rt=2.42 min.

reactant | 4-chloro-3-nitropyridine | 1.3 equiv. | ClC1=C(C=NC=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | (3aR,7S,7aR)-7-methylhexahydrooxazolo[4,5-c]pyridin-2(3H)-one | 1.5 equiv. | C[C@@H]1[C@@H]2[C@@H](CNC1)NC(O2)=O | C7H12N2O2
reactant | piperidine | 0.4 equiv | N1CCCCC1 | C5H11N
reactant | di-tert-butyl dicarbonate | 2.0 equiv. | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | dimethylaminopyridine | 0.1 equiv. | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (3aR,7S,7aR)-tert-butyl 7-methyl-5-(3-nitropyridin-4-yl)-2-oxohexahydrooxazolo[4,5-c]pyridine-3(2H)-carboxylate | 35% | C[C@@H]1[C@@H]2[C@@H](CN(C1)C1=C(C=NC=C1)[N+](=O)[O-])N(C(O2)=O)C(=O)OC(C)(C)C | C17H22N4O6
